US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(pyrid-2-yl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-2-yl)-3-(2-oxoethyl)pyrrolidine (0.29 g, 0.75 mmol) and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.26 g, 0.91 mmol) silica gel (about 2 g) and 3 Å molecular sieves (about 2 g) in methanol (16 mL). After 18 hours, add sodium cyanoborohydride (0.47 g, 7.5 mmol) and stir. After 7 days, add a solution of 2 M sodium hydroxide and dichloromethane. After 1 hour, filter, separate the layers in the filtrate, dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/1 methanol/ethyl acetate to give the title compound: mp; 40-42° C. Elemental Analysis calculated for C37H48N6O5.0.75 H2O: C 66.30; H 7.44; N 12.54; Found: C 66.33; H 7.50; N 12.49.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-2-yl)-3-(2-oxoethyl)pyrrolidine | 0.75 mmol, 0.29 g | COC=1C=C(C(=O)N2CC(CC2)(CC=O)C2=NC=CC=C2)C=C(C1OC)OC | C21H24N2O5
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.91 mmol, 0.26 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | sodium cyanoborohydride | 7.5 mmol, 0.47 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | methanol | 16 mL | CO | CH4O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(pyrid-2-yl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=NC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C37H48N6O5
